US08124606B2
Compound 68C: (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one:
In round-bottomed flask, (S)-methyl 6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazine-3-carboxylate (860 mg, 3.29 mmol) was dissolve in Tetrahydrofuran (Volume: 41 mL) to give a clear solution. The solution was cooled to 0° C. and NaH (197 mg, 4.94 mmol) was added. The reaction was allowed to stir at RT for 0.5 hour. The translucent solution was then cooled to −78° C. and LAH was added over two minutes. The reaction temperature was maintained between −30° C. and −20° C. for 3 hours while stirring, then cooled to −78° C. Methanol (3 ml, gas evolution) and water (1 ml) were added. The reaction was stirred at room temperature for 30 minutes. The crude product was added to 400 ml ethyl acetate. Water (100 ml) was added and the mixture stirred for 1 hr. The mixture was filtered through medium frit to remove tan solids which were discarded. The aqueous layer was extracted with ethyl acetate (1×100 mL). The organic fractions were combined, washed once with brine and dried with sodium sulfate and concentrated to yield 743 mg (97%) of the product as a white residue. [M+H] calc'd for C12H15N3O2, 234. found, 234.

reactant | (S)-methyl 6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazine-3-carboxylate | 3.29 mmol, 860 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)C(=O)OC)CCCC2 | C13H15N3O3
reactant | NaH | 4.94 mmol, 197 mg | [H-].[Na+]
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Methanol | 3 ml | CO | CH4O
solvent | Tetrahydrofuran | 41 mL | O1CCCC1 | C4H8O
solvent | Water | 100 ml | O | H2O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 1 ml | O | H2O
product | (S)-3-(hydroxymethyl)-7,8,9,10-tetrahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-6(6aH)-one | 743 mg, 97% | OCC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O | C12H15N3O2
